US04803301
To a stirred solution of known tert-butyl L-(+)-lactate (1.00 g), 4-(2',4'-dinitrophenoxy)phenol (2.08 g) and triphenylphosphine (1.98 g) in dry tetrahydrofuran (58 ml) on an ice bath, diethylazodicarboxylate (1.18 ml) was added dropwise. After the addition, the ice bath was removed and the mixture was further stirred at room temperature for 19 hours. The reaction mixture was evaporated with a rotary evaporator. The residue thus obtained was purified by silica gel chromatography [silica gel 344 g, eluant:ethyl acetate-hexane (1:5)] to give tert-butyl (2R)-(+)-2-(4'-(2",4"-dinitrophenoxy)phenoxy]propionate (1.45 g). Since the product was decomosed even by high vacuum distillation, the viscous oily substance of the product thus obtained was left to stand at room temperature under high vacuum (0.25 Torr) for 2 hours, and then its physical data thereon were measured.

reactant | tert-butyl L-(+)-lactate | 1.00 g | C([C@@H](O)C)(=O)OC(C)(C)C | C7H14O3
reactant | 4-(2',4'-dinitrophenoxy)phenol | 2.08 g | [N+](=O)([O-])C1=C(OC2=CC=C(C=C2)O)C=CC(=C1)[N+](=O)[O-] | C12H8N2O6
reactant | triphenylphosphine | 1.98 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 1.18 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 58 ml | O1CCCC1 | C4H8O
product | tert-butyl (2R)-(+)-2-(4'-(2",4"-dinitrophenoxy)phenoxy]propionate | 1.45 g | [N+](=O)([O-])C1=C(OC2=CC=C(O[C@@H](C(=O)OC(C)(C)C)C)C=C2)C=CC(=C1)[N+](=O)[O-] | C19H20N2O8
